US07253153B2
3-{2-[8,9-Dioxo-2,6-diazabicyclo[5.2.0]non-1(7)-en-2-yl]ethyl}-3-oxido-7-oxo-7-phenyl-2,4,6-trioxa-3-phosphahept-1-yl benzoate
A solution of [2-(8,9-dioxo-2,6-diazabicyclo[5.2.0]non-1(7)-en-2-yl)ethyl]phosphonic acid (20.16 mmol, 5.25 g) in dry DMF (120 mL) was treated with N,N-diisopropylethylamine (80.64 mmol, 14 ml) for ½ hour at ambient temperature. Benzoic acid chloromethyl ester (60.49 mmol, 10.32 g, synthesis described below) was added at ambient temperature under exclusion of moisture. The reaction mixture was heated to 65° C. for 20 hours. The temperature was then raised to 72° C. and stirred at 72° C. for 16 hours after which the reaction was completed. The mixture was cooled to room temperature and partitioned between 10% sodium bicarbonate and ethyl acetate. After separation of the layers the aqueous phase was again extracted with ethyl acetate (6×) until there was no more product in the water phase (by silica gel TLC, 7% 2M ammonia in methanol and 93% chloroform). The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and evaporated to dryness. The residue was flash chromatographed on 400 g silica gel using a solvent mixture of 1% 2M ammonia in methanol and 99% chloroform. Gradually the percentage of ammonia in methanol was increased to 7% and 93% chloroform. The solvent was evaporated in vacuo to yield the desired product (10.5 g, 99%; glass like material). MS (ES−): m/e 527 (M−H).

reactant | [2-(8,9-dioxo-2,6-diazabicyclo[5.2.0]non-1(7)-en-2-yl)ethyl]phosphonic acid | 20.16 mmol, 5.25 g | O=C1C=2NCCCN(C2C1=O)CCP(O)(O)=O | C9H13N2O5P
reactant | N,N-diisopropylethylamine | 80.64 mmol, 14 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Benzoic acid chloromethyl ester | 60.49 mmol, 10.32 g | ClCOC(C1=CC=CC=C1)=O | C8H7ClO2
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
product | 3-{2-[8,9-Dioxo-2,6-diazabicyclo[5.2.0]non-1(7)-en-2-yl]ethyl}-3-oxido-7-oxo-7-phenyl-2,4,6-trioxa-3-phosphahept-1-yl benzoate | 10.5 g, 99% | C(C1=CC=CC=C1)(=O)OCOP(OCOC(C1=CC=CC=C1)=O)(=O)CCN1C=2C(C(C2NCCC1)=O)=O | C25H25N2O9P
